US08981085B2
(S)—N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide (0.040 g, 0.13 mmol), (R)-tert-butyl pyrrolidin-3-ylcarbamate (0.074 g, 0.40 mmol) and DIEA (0.069 mL, 0.40 mmol, d 0.742) were placed in n-BuOH (1 mL) and heated to 135° C. for 8 hours. The reaction was then cooled to room temperature and concentrated to dryness. The resulting residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 0-60% CH3CN/water) to give tert-butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.040 g, 65% yield).

reactant | (S)—N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide | 0.13 mmol, 0.040 g | BrC=1C(=C2C(=NC1)NC=C2NC([C@H](C)O)=O)F | C10H9BrFN3O2
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 0.40 mmol, 0.074 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | DIEA | 0.40 mmol, 0.069 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3CN water | CC#N.O
solvent | n-BuOH | 1 mL | CCCCO | C4H10O
product | tert-butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.040 g, 65% yield | BrC=1C(=C2C(=NC1)NC=C2NC([C@H](C)O)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C19H26BrN5O4
